US07820658B2
2-Amino-4-benzylamino-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (Example 22 in Table 1)
The 2-amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (100 mg, 0.39 mmol), benzylamine (100 μL) in 4 mL of THF are submitted to MW irradiation at 110° C. for 35 mins. The reaction was cooled to room temperature and worked up (acidic) and purified using standard conditions for a neutral compound.

reactant | 2-amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 0.39 mmol, 100 mg | COC(=O)C1=CC2=C(N=C(N=C2Cl)N)S1 | C8H6ClN3O2S
reactant | benzylamine | 100 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-Amino-4-benzylamino-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N=C2NCC2=CC=CC=C2)N)S1 | C15H14N4O2S
